US04958026
At room temperature, 23.3 g of N,N-dimethyl-N-[2-(7-nitro-1H-indazol-4-yl)ethenyl]amine and 35.0 g of hydroxylamine-orthosulfonic acid are agitated in 400 ml of water for 24 hours. The precipitate is suctioned off, washed with water, and recrystallized from ethyl acetate, thus obtaining 16.0 g of 2-(7-nitro-1H-indazol-4-yl)acetonitrile, mp 198°-200° C.

reactant | N,N-dimethyl-N-[2-(7-nitro-1H-indazol-4-yl)ethenyl]amine | 23.3 g | CN(C=CC1=C2C=NNC2=C(C=C1)[N+](=O)[O-])C | C11H12N4O2
solvent | water | 400 ml | O | H2O
product | 2-(7-nitro-1H-indazol-4-yl)acetonitrile | 16.0 g | [N+](=O)([O-])C=1C=CC(=C2C=NNC12)CC#N | C9H6N4O2
